US05232939
2-Ethoxycarbonylmethyl-7-methyl-6-phenyl-1H-imidazo-[1,2-b]pyrazole (Compound No. 38)
0.78 ml of ethyl 4-chloroacetoacetate was added to a solution of 1.0 g of 3-amino-4-methyl-5-phenyl-1H-pyrazole in 25 ml of acetonitrile, and then the mixture was stirred at room temperature for 4 days. At the end of this time, the crystals which separated were filtered off and the mother liquor was concentrated by evaporation under reduced pressure. The residue was partitioned between ethyl acetate and water, and the organic phase was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 1:1 by volume mixture of ethyl acetate and hexane as the eluent, to give 80 mg of the title compound in the form of an oil.

reactant | ethyl 4-chloroacetoacetate | 0.78 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 3-amino-4-methyl-5-phenyl-1H-pyrazole | 1.0 g | NC1=NNC(=C1C)C1=CC=CC=C1 | C10H11N3
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 2-Ethoxycarbonylmethyl-7-methyl-6-phenyl-1H-imidazo-[1,2-b]pyrazole | 80 mg | C(C)OC(=O)CC=1NC=2N(N=C(C2C)C2=CC=CC=C2)C1 | C16H17N3O2
